US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)piperazine (200 mg) and 1-(4-chloro-2-butynyl)morpholine hydrochloride (95 mg) in N,N-dimethylformamide (0.5 ml) was stirred at room temperature in the presence of powdered potassium carbonate (177 mg). After 17 hours, the reaction mixture was diluted with ethyl acetate (30 ml) and then washed successively with water and brine, and dried over magnesium sulfate. After evaporation of the solvent in vacuo, the resulting residue was purified by column chromatography on silica gel using ethyl acetate as an eluent. The product obtained was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(4-morpholino-2-butynyl)-2-(2-naphthylmethyl)piperazine dihydrochloride (257 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)piperazine | 200 mg | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | C24H20F6N2O
reactant | potassium carbonate | 177 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(4-morpholino-2-butynyl)-2-(2-naphthylmethyl)piperazine dihydrochloride | 257 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2CCOCC2)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H31F6N3O2.2ClH/c33-31(34,35)27-19-26(20-28(21-27)32(36,37)38)30(42)41-12-11-40(10-4-3-9-39-13-15-43-16-14-39)22-29(41)18-23-7-8-24-5-1-2-6-25(24)17-23;;/h1-2,5-8,17,19-21,29H,9-16,18,22H2;2*1H/t29-;;/m1../s1
